US03989746
1-Bromo-4-butyl-3-methylnaphthalene-- A solution of 1-chloromethyl-2-methylnaphthalene (32.3 g) in dry toluene (150 ml) was dropwise added to a Grignard reagent, from n-propylbromide (27.1 g), Mg(5.3 g), and dry ether (150 ml). The ether was evaporated, and the resulting solution was refluxed for 2 hrs. The reaction mixture was cooled and poured into an ice-cooled aqueous ammonium chloride. The organic layer was taken, and aqueous layer was extracted with ether. Combined organic solution was washed with 10% HCl, 10% NaOH, and water and dried. The solvent was evaporated, and the residue was distilled to give an oil (8.8 g) of 1-butyl-2-methylnaphthalene, bp2 82°-86° C. The oil (8.8 g) was brominated by a similar manner given in Example 9 to afford an oil (8.0 g, 65.1%) of bp2 124°-128° C.

reactant | 1-Bromo-4-butyl-3-methylnaphthalene | BrC1=CC(=C(C2=CC=CC=C12)CCCC)C | C15H17Br
reactant | 1-chloromethyl-2-methylnaphthalene | 32.3 g | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
reactant | n-propylbromide | 27.1 g | C(CC)Br | C3H7Br
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-butyl-2-methylnaphthalene | 8.8 g | C(CCC)C1=C(C=CC2=CC=CC=C12)C | C15H18
